US08357679B2
N-(2-Fluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-4-methylpentanamide
4-Methylvaleric acid (4.30 mmol, 0.543 mL, 0.5 g) was stirred in dichloromethane (5 mL) at 0° C. Oxalyl chloride (21.52 mmol, 1.848 mL, 2.73 g) was added. The reaction mixture allowed to warm to room temperature and stirred for 18 hours. The reaction mixture was concentrated under vacuum to give the intermediate 4-methylpentanoyl chloride. A mixture of 4-methylpentanoyl chloride (1.564 mmol, 0.211 g), (4-amino-3-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone (1.043 mmol, 0.5 g) and triethylamine (2.086 mmol, 0.290 mL, 0.211 g) were stirred in dichloromethane at 0° C. for 1 hour. The reaction mixture was washed with water, dried over sodium sulfate, concentrated under vacuum and purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 5% methanol/dichloromethane) to afford the title compound (54 mg).

reactant | 4-methylpentanoyl chloride | 1.564 mmol, 0.211 g | CC(CCC(=O)Cl)C | C6H11ClO
reactant | (4-amino-3-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 1.043 mmol, 0.5 g | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F | C21H20F7N3O2
reactant | triethylamine | 2.086 mmol, 0.290 mL, 0.211 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-Fluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-4-methylpentanamide | 54 mg | FC1=C(C=CC(=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(CCC(C)C)=O | C27H30F7N3O3
